US07666659B2
Process for Producing methyl 2-formyl-3-(3,4-methylenedioxyphenyl)-propionate
First, 1.38 g of 60% NaH was suspended in 12 ml of THF. Then, 2.4 g of methyl 3-(3,4-methylenedioxyphenyl)-propionate was dissolved in 12 ml of THF and added dropwise to the suspension solution prepared above at room temperature. After the suspension solution was raised in temperature to 40° C. and stirred for 15 minutes, 3.46 g of methyl formate was added dropwise for 1 hour. Further, 0.7 g of 60% NaH and 0.9 g of methyl formate were divided into four parts and each part was added separately. Afterwards, the solution mixture was stirred at 40° C. for 3 hours.

reactant | NaH | 1.38 g | [H-].[Na+]
reactant | methyl 3-(3,4-methylenedioxyphenyl)-propionate | 2.4 g | C1OC=2C=C(C=CC2O1)CCC(=O)OC | C11H12O4
reactant | methyl formate | 3.46 g | C(=O)OC | C2H4O2
reactant | NaH | 0.7 g | [H-].[Na+]
reactant | methyl formate | 0.9 g | C(=O)OC | C2H4O2
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | methyl 2-formyl-3-(3,4-methylenedioxyphenyl)-propionate | C(=O)C(C(=O)OC)CC1=CC2=C(C=C1)OCO2 | C12H12O5
